US04530714
A. N-(sec-Butyl)thiophosphoramidic Dichloride
A solution of 2-aminobutane (45 mL, 0.449 mol) in 45 mL of anhydrous ether was added dropwise to a solution of 93 mL (0.915 mol) of thiophosphoryl chloride in 200 mL of anhydrous ether at 0° C. under an argon atmosphere. The resultant slurry was stirred while slowly warmed to room temperature. After filtering to remove sec-butylamine hydrochloride (40.6 g), the filtrate was concentrated at reduced pressure to provide 32.3 g (69.7%) of a yellow oil.

reactant | 2-aminobutane | 0.449 mol, 45 mL | NC(C)CC | C4H11N
reactant | thiophosphoryl chloride | 0.915 mol, 93 mL | P(=S)(Cl)(Cl)Cl | Cl3PS
solvent | ether | 45 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | N-(sec-Butyl)thiophosphoramidic Dichloride | 32.3 g, 69.7% | C(C)(CC)NP(=S)(Cl)Cl | C4H10Cl2NPS
